US08957074B2
Following general N—C coupling procedure 1, 2-chloro-7-cyclopentyl-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide (100 mg, 0.34 mmole) was combined with 5-(hexahydropyrrolo[1,2-a]pyrazin-2(1H)-yl)pyridin-2-amine (74.6 mg, 0.34 mmole) which gave 7-cyclopentyl-2-(5-(hexahydropyrrolo[1,2-a]pyrazin-2(1H)-yl)pyridin-2-ylamino)-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide (60 mg) in 37% yield.

reactant | 2-chloro-7-cyclopentyl-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | 0.34 mmole, 100 mg | ClC=1N=CC2=C(N1)N(C(=C2)C(=O)N(C)C)C2CCCC2 | C14H17ClN4O
reactant | 5-(hexahydropyrrolo[1,2-a]pyrazin-2(1H)-yl)pyridin-2-amine | 0.34 mmole, 74.6 mg | C1C2N(CCN1C=1C=CC(=NC1)N)CCC2 | C12H18N4
product | 7-cyclopentyl-2-(5-(hexahydropyrrolo[1,2-a]pyrazin-2(1H)-yl)pyridin-2-ylamino)-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | 60 mg, 37% yield | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C=C2)N2CC1N(CC2)CCC1)C(=O)N(C)C | C26H34N8O
